US07994176B2
3-Cyclohexyl-pyrrolidin-2-one
Heat a mixture of 3-cyclohexyl-dihydro-furan-2-one (32.2 g), ammonium hydroxide (700 mL) and ethanol (700 mL) at 230° C. in a sealed steel bottle for 18 hours. Cool the reaction and remove the solvent in vacuo. Partition the residue with ethyl acetate (500 mL) and HCl (1N, 300 mL). Dry the organic over sodium sulfate. After filtration and concentration, recrystallize with 1:3 ethyl acetate:hexane to afford 30 grams (94%) of the title compound.

reactant | 3-cyclohexyl-dihydro-furan-2-one | 32.2 g | C1(CCCCC1)C1C(OCC1)=O | C10H16O2
reactant | ammonium hydroxide | 700 mL | [OH-].[NH4+]
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | 3-Cyclohexyl-pyrrolidin-2-one | 30 grams, 94% | C1(CCCCC1)C1C(NCC1)=O | C10H17NO
